US08097623B2
(a) 5-(4-Trifluoromethylphenyl)indole-2-carboxylic acid ethyl ester
A mixture of 5-bromoindole-2-carboxylic acid ethyl ester (4.22 g, 16 mmol), 4-trifluoromethylphenylboronic acid (4.50 g, 24 mmol), K3PO4 (11.7 g, 55 mmol), Pd(OAc)2 (176 mg, 0.78 mmol), tri-o-tolylphosphine (478 mg, 1.6 mmol), EtOH (20 mL) and toluene (90 mL) was stirred under argon for 20 min at rt, heated at 100° C. for 2 h, cooled and poured into NaHCO3 (aq, sat). The mixture was extracted with EtOAc and the combined extracts were washed with H2O and brine, dried (Na2SO4), concentrated and purified by chromatography to give the sub-title compound. Yield 3.91 g (75%).

reactant | 5-bromoindole-2-carboxylic acid ethyl ester | 16 mmol, 4.22 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)Br | C11H10BrNO2
reactant | 4-trifluoromethylphenylboronic acid | 24 mmol, 4.50 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | K3PO4 | 55 mmol, 11.7 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | tri-o-tolylphosphine | 1.6 mmol, 478 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | Pd(OAc)2 | 0.78 mmol, 176 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | toluene | 90 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 20 mL | CCO | C2H6O
product | 5-(4-Trifluoromethylphenyl)indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)C1=CC=C(C=C1)C(F)(F)F | C18H14F3NO2
